US09216173B2
2,6-Dichloro-4-methylpyridine (2.00 g, 12.3 mmol) was suspended in NMP (10 mL). N,N-Diisopropylethylamine (4.31 mL, 24.7 mmol) and benzylamine (1.42 mL, 13.0 mmol) were added, and the reaction mixture was heated to 150° C. in a microwave for 90 minutes. The reaction mixture was allowed to cool to room temperature, diluted with water, and extracted with diethyl ether (2×). The combined organics were dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified via silica gel column chromatography (0-10% ethyl acetate/hexanes, linear gradient) to give N-benzyl-6-chloro-4-methylpyridin-2-amine. MS ESI calc'd. for C13H14ClN2 [M+H]+ 233. found 233.

reactant | 2,6-Dichloro-4-methylpyridine | 12.3 mmol, 2.00 g | ClC1=NC(=CC(=C1)C)Cl | C6H5Cl2N
reactant | N,N-Diisopropylethylamine | 24.7 mmol, 4.31 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | benzylamine | 13.0 mmol, 1.42 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | NMP | 10 mL | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | N-benzyl-6-chloro-4-methylpyridin-2-amine | C(C1=CC=CC=C1)NC1=NC(=CC(=C1)C)Cl | C13H13ClN2
